US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (0.136 g, 0.7 mmol) and aniline (0.5 mL, 5.5 mmol) is refluxed under N2 at 180° C. for 2 h. The reaction mixture is cooled to 25° C., when it precipitates. The solid is collected by suction filtration and recrystallized from isopropanol, and dried in a vacuum oven overnight. 7-Amino-4-anilinopyrido[4,3-d]pyrimidine (84 mg, 51%) is isolated as a light yellow solid. 1H NMR (DMSO) δ 9.82 (1H, s), 9.34 (1H, s), 8.37 (1H, s), 7.80 (2H, d, J=7.5 Hz), 7.38 (2H, t, J=7.5 Hz), 7.12 (1H, t, J=7.5 Hz), 6.61 (2H, brs) 6.43 (1H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 0.7 mmol, 0.136 g | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | aniline | 5.5 mmol, 0.5 mL | NC1=CC=CC=C1 | C6H7N
product | 7-Amino-4-anilinopyrido[4,3-d]pyrimidine | 84 mg, 51% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC=CC=C1 | C13H11N5
